US07314936B2
To a solution of 8-methyene-1,4-dioxa-spiro[4.5]decane (2.0 g, 13 mmol, 1.0 eq.) in THF (10 mL) at 0° C. was added dropwise 9-BBN (0.5 M in THF, 104 mL, 4.0 eq.) and the resulting mixture was stirred for 15 min and then warmed to room temperature and stirred overnight. Then NaBO4. 4H2O (32 g, 16 eq.) was introduced at 0° C. portionwise and the resulting mixture was warmed to room temperature and stirred overnight, diluted with hexanes (30 mL) and the separated aqueous phase was extracted with EtOAc. The combined organic phase was dried over over Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (50% to 100% EtOAc-hexanes) to give (1,4-dioxa-spiro[4.5]dec-8-yl)-methanol (1.5 g, 67%).

reactant | 8-methyene-1,4-dioxa-spiro[4.5]decane | 13 mmol, 2.0 g, 1.0 eq. | C=C1CCC2(OCCO2)CC1 | C9H14O2
reactant | 9-BBN | 0.5 M, 104 mL, 4.0 eq. | B1C2CCCC1CCC2 | C8H15B
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (1,4-dioxa-spiro[4.5]dec-8-yl)-methanol | 1.5 g, 67% | O1CCOC12CCC(CC2)CO | C9H16O3
